US09169254B2
8-Ethenesulfonyl-2-(4-fluoro-3-trifluoromethyl-phenyl)-1,3,8-triaza-spiro[4.5]dec-1-en-4-one (57.6 mg, 0.142 mmol), 4-(4-bromo-3,5-dimethyl-phenoxy)-butane-1,2-diol (49.3 mg, 0.170 mmol), bis(dibenzylideneacetone)palladium(0) (8 mg, 0.014 mmol) and tri-tert-butylphosphine tetrafluoroborate (4 mg, 0.014 mmol) were placed in a vial. NMP (0.5 ml) and N-methyldicyclohexylamine (36.1 μl, 0.170 mmol) were sequentially added in a nitrogen atmosphere, and the mixture was heated with stirring at 100° C. for 2.5 hours. A saturated aqueous NH4Cl solution was added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer was sequentially washed with water and saturated brine and then concentrated under reduced pressure. The resulting residue was purified by thin layer chromatography (ethyl acetate:dichloromethane:methanol=10:10:1) to give 8-{(E)-2-[4-(3,4-dihydroxy-butoxy)-2,6-dimethyl-phenyl]-ethenesulfonyl}-2-(4-fluoro-3-trifluoromethyl-phenyl)-1,3,8-triaza-spiro[4.5]dec-1-en-4-one (42.8 mg, 49%).

reactant | 8-Ethenesulfonyl-2-(4-fluoro-3-trifluoromethyl-phenyl)-1,3,8-triaza-spiro[4.5]dec-1-en-4-one | 0.142 mmol, 57.6 mg | C(=C)S(=O)(=O)N1CCC2(C(NC(=N2)C2=CC(=C(C=C2)F)C(F)(F)F)=O)CC1 | C16H15F4N3O3S
reactant | 4-(4-bromo-3,5-dimethyl-phenoxy)-butane-1,2-diol | 0.170 mmol, 49.3 mg | BrC1=C(C=C(OCCC(CO)O)C=C1C)C | C12H17BrO3
reactant | tri-tert-butylphosphine tetrafluoroborate | 0.014 mmol, 4 mg | F[B-](F)(F)F.C(C)(C)(C)P(C(C)(C)C)C(C)(C)C
reactant | N-methyldicyclohexylamine | 0.170 mmol, 36.1 μl | CN(C1CCCCC1)C1CCCCC1 | C13H25N
reactant | NH4Cl | [NH4+].[Cl-]
catalyst | bis(dibenzylideneacetone)palladium(0) | 0.014 mmol, 8 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
solvent | NMP | 0.5 ml | CN1CCCC1=O | C5H9NO
product | 8-{(E)-2-[4-(3,4-dihydroxy-butoxy)-2,6-dimethyl-phenyl]-ethenesulfonyl}-2-(4-fluoro-3-trifluoromethyl-phenyl)-1,3,8-triaza-spiro[4.5]dec-1-en-4-one | 42.8 mg, 49% | OC(CCOC1=CC(=C(C(=C1)C)/C=C/S(=O)(=O)N1CCC2(C(NC(=N2)C2=CC(=C(C=C2)F)C(F)(F)F)=O)CC1)C)CO | C28H31F4N3O6S
